US08034812B2
Production of 2-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-1,3-thiazole-4-carboxamide
Using 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylic acid (104 mg, 0.53 mmol), oxalyl chloride (57 μL, 0.66 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (5.0 mL), N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.44 mmol) and N,N-dimethylacetamide (4.0 mL) as starting materials and in the same manner as in Example 335, the title compound (179 mg, 78%) was obtained as a white powder.

reactant | 2-(1-cyano-1-methylethyl)-1,3-thiazole-4-carboxylic acid | 0.53 mmol, 104 mg | C(#N)C(C)(C)C=1SC=C(N1)C(=O)O | C8H8N2O2S
reactant | oxalyl chloride | 0.66 mmol, 57 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.44 mmol, 150 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)OC | C17H17N5O3
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
product | 2-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-1,3-thiazole-4-carboxamide | 179 mg, 78% | C(#N)C(C)(C)C=1SC=C(N1)C(=O)NC1=CC(=C(C=C1)OC)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C25H23N7O4S
